US04409214
2-Aminooxyacetic acid hemihydrochloride (1.7 g) was added to a solution of 7-[(2-aminothiazol-4-yl)glyoxylamido]-3-vinyl-3-cephem-4-carboxylic acid (2.0 g) and sodium acetate trihydrate (0.7 g) in water (40 ml), and the mixture was adjusted to pH 5.2 with 10% aqueous sodium hydroxide and then stirred for 3.5 hours at 50° C. During the stirring, the mixture was adjusted to pH 5.0 to 5.4 with the same. The reaction mixture was further adjusted to pH 2.2 with 10% hydrochloric acid under ice-cooling. The precipitates were collected by filtration, washed with water and then dried over phosphorus pentoxide in vacuo to give 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer)(1.13 g).

reactant | 2-Aminooxyacetic acid hemihydrochloride | 1.7 g | Cl.NOCC(=O)O.NOCC(=O)O
reactant | 7-[(2-aminothiazol-4-yl)glyoxylamido]-3-vinyl-3-cephem-4-carboxylic acid | 2.0 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=O | C14H12N4O5S2
reactant | sodium acetate trihydrate | 0.7 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 7-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 1.13 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)O | C16H15N5O7S2
